US08048872B2
Vinorelbine N′b-oxide was synthesized using essentially the same procedure used to prepare vinblastine N′b-oxide. m-Chloroperoxybenzoic acid (45 mg, 0.26 mmol) in CHCl3 (2.5 mL) was added at 0° to a stirred solution of purified vinorelbine (150 mg, 0.20 mmol) in CHCl3 (4.5 mL) under nitrogen. After 15 min, the mixture was poured into an aqueous sodium carbonate (27 mL, 40 g/L) and was extracted by CHCl3 (20 mL). After drying over sodium sulfate and filtration, the CHCl3 extract was evaporated under reduced pressure affording crude vinorelbine N-oxide (125 mg, 83%). Thin-layer chromatography (silica; 9:1 CHCl3/MeOH) indicated the presence of a small amount of starting vinorelbine (vinorelbine Rf=0.37, vinorelbine N′b-oxide Rf=0.18). Radial chromatography on silica gel (eluent, 9:1 CHCl3/MeOH) gave vinorelbine N′b-oxide as an off-white solid (100 mg; 75%). The sample was dissolved in ethyl acetate/hexanes and then the open flask was placed in a sealed container containing an open flask of hexanes. As the hexanes diffused slowly into the vinorelbine N′b-oxide solution, vinorelbine N′b-oxide precipitated out as an off-white powder (80 mg; 53%). The 300 MHz 1HNMR spectrum was consistent with the assigned structure. The configuration of the N′b-oxide oxygen atom is assigned the same stereochemistry as that found in vinblastine N-oxide by x-ray crystallography.

reactant | m-Chloroperoxybenzoic acid | 0.26 mmol, 45 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | vinorelbine | 0.20 mmol, 150 mg | CCC1=C[C@H]2C[C@@](C3=C(C=4C=CC=CC4N3)CN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@@]7(C(=O)OC)O)OC(=O)C)CC)C)C(=O)OC | C45H54N4O8
reactant | sodium carbonate | 27 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | CHCl3 | 2.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 4.5 mL | C(Cl)(Cl)Cl | CHCl3
product | vinorelbine N-oxide | 125 mg, 83% | CCC1=C[C@@H]2C[C@@](C3=C(CN(C2)C1)C4=CC=CC=C4[NH+]3[O-])(C5=C(C=C6C(=C5)[C@]78CCN9[C@H]7[C@@](C=CC9)([C@H]([C@@]([C@@H]8N6C)(C(=O)OC)O)OC(=O)C)CC)OC)C(=O)OC | C45H54N4O9
